2108-12-02 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2108-12-1**] 10:52 PM
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Codeine
   Unknown;
   Atenolol
   bradycardia;
   Last dose of Antibiotics:
   Levofloxacin - [**2108-12-2**] 01:34 AM
   Metronidazole - [**2108-12-2**] 02:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-12-2**] 12:05 AM
   Pantoprazole (Protonix) - [**2108-12-2**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-2**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 61 (47 - 61) bpm
   BP: 101/45(60) {91/45(38) - 131/82(94)} mmHg
   RR: 13 (8 - 21) insp/min
   SpO2: 99%
           Total In:
                                                                  1,360 mL
                                                                  1,268 mL
   PO:
           TF:
   IVF:
                                                                  1,160 mL
                                                                    893 mL
   Blood products:
   375 mL
   Total out:
                                                                    960 mL
                                                                    970 mL
   Urine:
                                                                    960 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   8.4 g/dL
   106 mg/dL
   2.3 mg/dL
   27 mEq/L
   5.1 mEq/L
   44 mg/dL
   106 mEq/L
   139 mEq/L
   25.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2108-12-1**]  10:54 PM
                             [**2108-12-2**]  03:59 AM
   WBC
   4.8
   Hct
   23.5
   25.8
   Plt
   164
   Cr
   2.3
   Glucose
   106
   Other labs: PT / PTT / INR:16.3/35.2/1.5, ALT / AST:[**12-12**], Alk Phos / T
   Bili:66/0.6, Amylase / Lipase:/15, LDH:239 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 POISONING / OVERDOSE, OTHER
 ANEMIA, OTHER
   This is a homeless 61 year old male with a past medical history of
   medication overdose with clonidine, repeat ARF and recent STEMI s/p BMS
   to LAD, hypertension/hyotension, post-tramatic  stress disorder, and
   depression who presents with hypotension somnolence.
   # Hypotension: symptoms consistent with and likely due to Clonidine
   overdose  (bradycardia, hypotension and lethargy, miosis), doubt
   sepsis, PE, or MI (also mostly r/o in ED, not febrile, not tachy or
   resp distress, no signs of cardiac decompensation and secondary CHF).
   Could be due to bleed however pt brady cardic and somnolent.
   - narcane (for possible opioid overdose)
   - flumazenil (for possible benzo overdose)
   - pressors, preferebly levophed or dopamine
   - IVF
   - atropine for AV block, check EKG and atropine ready
   - activated charcoal
   - expect improvement within 24-48 hours
   .
   # ARF: acute on chronic renal failure, most likely due to hypotension
   in the setting of medication overdose. doubt sepsis or shock other
   etiology. will obtain
   - urine lytes
   - urine sediment to check for ATN
   - renaly dose meds, avoid nephrotoxins
   - f/u I/O
   - renal consulted in ED, appreciate recs
   .
   # DVT: unlikely the etiology of shock and acute renal failure> given
   risk of bleed and low suspiciouse of these to be the causative source
   of pt's current situation will defer treatment with iv heparinonce pt
   more stable. No CTA as renal failure and low suspicioun.
   .
   # transient hypoglycemia: unclear etiology, possibly due to
   insulin/glucose in ED to get K down, not know for clonidine to have
   such side effect, possibly due to concomittant beta blocker over dose.
   - monitor frequently
   - D5NS maintenance fluid
   .
   # Anemia: hx of GI bleed. Unlikely to be the cause of hypotension. No
   signs of active bleed. Most likely chronic GI bleed. Will check:
   - guiac stool
   - repeat HCT Q8H
   - type and screen
   - consider calling GI if further HCT drop or melena brbpr
   .
   # Cardiac: chronic systolic CHF: due to CAD, possibly also to some
   [**Last Name (un) 6424**] due to multisubstance abuse (alcohol/ IVDU).
   - hold of BP meds and ACE-I
   - Careful fluid resuscition
   - cardiac diet
   - slowly resuem meds once hemodinamically stable
   bradycardia: cosistent with sinus bradycardia, poor r-wave progression
   and not changed from prior tracings.
   .
   # Recurrent Pulmonary Emboli, s/p IVC: currently not an issue. no anti
   coagulation due to non compliance.
   - s.c. heparin
   .
   # Chronic Obstructive Airway Disease: Patient to continue on
   his nebulizer and inhaler treatments.
   # Somnolence: consistent with clonidine overdose. also possible other
   etiologies e.g. opiod or benzo overdose. will administer diagnostic
   narcane/flumazenil
   .
   # Psychiatric disorder/Post-traumatic stress disorder: no psychoactive
   meds at this moment. Once pt medically stable wil consult psych.
   - SW consult
   .
   # Gastroesophageal reflux disease: Patient to continue on
   prilosec 20 mg [**Hospital1 **].
   # FEN: IVF D51/2 NS, once awake, reglar cardiac diet
   # Code: full
   # access: central line, 2xperipheral
   # dispo: pending MS recovery
   # PPX: s.c. hep, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-12-1**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2108-12-03 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-2**]
   - Pt wanted to leave AMA, CVL stiches cut, but then steristripped down
   when pt decided to stay
   - Urine Lytes sent
   - Seen by Psych
   - Email pt's PCP ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1256**]) reguarding potentially having pt receive
   care at [**Hospital1 147**] for chronic anti-coag therapy.
   - Seen by Renal
   - Serial Hcts overnight stable
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Codeine
   Unknown;
   Atenolol
   bradycardia;
   Last dose of Antibiotics:
   Levofloxacin - [**2108-12-2**] 01:34 AM
   Metronidazole - [**2108-12-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-12-2**] 10:34 PM
   Pantoprazole (Protonix) - [**2108-12-3**] 12:34 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 67 (52 - 75) bpm
   BP: 126/77(89) {84/10(33) - 126/82(90)} mmHg
   RR: 9 (9 - 17) insp/min
   SpO2: 95%
             Total In:
                                                                  4,597 mL
                                                                    548 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  3,142 mL
                                                                    548 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,785 mL
                                                                    930 mL
   Urine:
                                                                  2,785 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: NAD, AOx3
   CV: RRR, 2/6 SEM at LSB
   Pulm: CTAB
   Abd: soft, NT/ND, BS absent
   Extr: 3+ LE edema bilaterally to mid shin, pulses 2+ symmetric
   Labs / Radiology
   145 K/uL
   8.6 g/dL
   88 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   28 mg/dL
   107 mEq/L
   140 mEq/L
   25.9 %
   3.4 K/uL
        [image002.jpg]
                             [**2108-12-1**]  10:54 PM
                             [**2108-12-2**]  03:59 AM
                             [**2108-12-2**]  02:03 PM
                             [**2108-12-2**]  07:43 PM
                            [**2108-12-3**]  04:15 AM
   WBC
   4.8
   3.4
   Hct
   23.5
   25.8
   24.0
   25.8
   25.9
   Plt
   164
   145
   Cr
   2.3
   1.6
   1.3
   Glucose
   106
   110
   88
   Other labs: PT / PTT / INR:15.1/34.8/1.3, ALT / AST:[**12-12**], Alk Phos / T
   Bili:66/0.6, Amylase / Lipase:/15, LDH:239 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   61 year old male with a past medical history of medication overdose
   with clonidine, repeat ARF and recent STEMI s/p BMS to LAD,
   hypertension/hyotension, post-tramatic  stress disorder, and depression
   who presents with hypotension somnolence.
   # Hypotension: symptoms consistent with and likely due to Clonidine
   overdose  (bradycardia, hypotension and lethargy, miosis), doubt
   sepsis, PE, or MI (also mostly r/o in ED, not febrile, not tachy or
   resp distress, no signs of cardiac decompensation and secondary CHF).
   Could be due to beta-blocker as pt brady cardic and somnolent.  -
   activated charcoal given.
   - narcane (for possible opioid overdose)
   - flumazenil (for possible benzo overdose)
   - wean off pressors
   - IVF
   - atropine for AV block, check EKG and atropine ready
   - can also give glucagon if bb toxicity is suspected
   .
   # ARF: acute on chronic renal failure, most likely due to hypotension
   in the setting of medication overdose. Improving with fluid challenge.
   f/u on
   - urine lytes
   - urine sediment to check for ATN
   - renaly dose meds, avoid nephrotoxins
   - f/u I/O
   - renal consulted in ED, appreciate recs
   .
   # DVT with recurrent PEs: Patient with some evidence of IVC filter
   blockage.  Unlikely the etiology of shock and acute renal failure>
   given risk of bleed and low suspicious of these to be the causative
   source of pt's current situation will defer treatment with iv heparin
   once pt more stable. No CTA as renal failure and low suspicious.
   - consider chronic anticoagulation as outpatient.
   .
   # transient hypoglycemia:, possibly due to concomitant beta blocker
   over dose.
   - monitor frequently
   - D5NS maintenance fluid
   .
   # Anemia: hx of GI bleed. Unlikely to be the cause of hypotension. No
   signs of active bleed. Most likely chronic GI bleed. Will check:
   - guiac stool
   - repeat HCT Q8H
   - transfused 1 U yesterday
   - consider calling GI if further HCT drop or melena brbpr
   .
   # Cardiac: chronic systolic CHF: due to CAD, possibly also to some
   [**Last Name (un) 6424**] due to multisubstance abuse (alcohol/ IVDU).
   - hold of BP meds and ACE-I
   - Careful fluid resuscition
   - cardiac diet
   - slowly resuem meds once hemodinamically stable
   bradycardia: cosistent with sinus bradycardia, poor r-wave progression
   and not changed from prior tracings.
   .
   # Chronic Obstructive Airway Disease: Patient to continue on
   his nebulizer and inhaler treatments.
   # Psychiatric disorder/Post-traumatic stress disorder: no psychoactive
   meds at this moment. Once pt medically stable wil consult psych.
   - SW consult
   .
   # Gastroesophageal reflux disease: Patient to continue on
   prilosec 20 mg [**Hospital1 **].
   # FEN: reglar cardiac diet
   # Code: full
   # access: central line, 2xperipheral
   # dispo: pending BP recovery
   # PPX: s.c. hep, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  Right IJ
   Multi Lumen - [**2108-12-1**] 10:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2108-12-03 11:55:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, drug overdose, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has been seen by psychiatry. Pressors are off, patient has been
   hemodynamically stable. Renal function improving.
   Patient complaining about chronic pain.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Codeine
   Unknown;
   Atenolol
   bradycardia;
   Last dose of Antibiotics:
   Levofloxacin - [**2108-12-2**] 01:34 AM
   Metronidazole - [**2108-12-3**] 08:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-12-2**] 10:34 PM
   Pantoprazole (Protonix) - [**2108-12-3**] 11:21 AM
   Other medications:
   Thiamine, lactulose, colace, methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2108-12-3**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 68 (55 - 75) bpm
   BP: 120/70(82) {84/10(33) - 132/82(92)} mmHg
   RR: 12 (9 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,599 mL
                                                                  1,836 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,144 mL
                                                                  1,596 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,785 mL
                                                                  1,790 mL
   Urine:
                                                                  2,785 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,814 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Physiologically split S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : coarse, No(t) Bronchial: , Wheezes :
   prolonged expiration, Diminished: , No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   145 K/uL
   88 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   28 mg/dL
   107 mEq/L
   140 mEq/L
   25.9 %
   3.4 K/uL
        [image002.jpg]
                             [**2108-12-1**]  10:54 PM
                             [**2108-12-2**]  03:59 AM
                             [**2108-12-2**]  02:03 PM
                             [**2108-12-2**]  07:43 PM
                            [**2108-12-3**]  04:15 AM
   WBC
   4.8
   3.4
   Hct
   23.5
   25.8
   24.0
   25.8
   25.9
   Plt
   164
   145
   Cr
   2.3
   1.6
   1.3
   Glucose
   106
   110
   88
   Other labs: PT / PTT / INR:15.1/34.8/1.3, ALT / AST:[**12-12**], Alk Phos / T
   Bili:66/0.6, Amylase / Lipase:/15, LDH:239 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SHOCK, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Munchausen's
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 POISONING / OVERDOSE, OTHER
 ANEMIA, OTHER
   Patient off levophed for past 12 hours. Has been hemodynamically
   stable. Picture still felt be due to possible overdose of clonidine.
   Renal function improving. Electrolytes acceptable. No acid-base
   disturbance.
   Hct stable at 25. Not at threshold for transfusion. Stools have been
   negative for blood.
   Prolonged expiratory phase. Hx of smoking. Would begin on albuterol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-12-1**] 10:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill